US07053089B2
Benzyl 4-[(2-pyrimidinylamino)methyl]-1-piperidinecarboxylate
The title compound was prepared as described in EXAMPLE 13, except using benzyl 4-(aminomethyl)-1-piperidinecarboxylate (6.50 g, 26.19 mmol) and 2-chloropyrimidine (990 mg, 8.64 mmol) as starting materials without a solvent to give the title compound as a yellow oil.

reactant | benzyl 4-(aminomethyl)-1-piperidinecarboxylate | 26.19 mmol, 6.50 g | NCC1CCN(CC1)C(=O)OCC1=CC=CC=C1 | C14H20N2O2
reactant | 2-chloropyrimidine | 8.64 mmol, 990 mg | ClC1=NC=CC=N1 | C4H3ClN2
product | Benzyl 4-[(2-pyrimidinylamino)methyl]-1-piperidinecarboxylate | N1=C(N=CC=C1)NCC1CCN(CC1)C(=O)OCC1=CC=CC=C1 | C18H22N4O2
